US07955664B2
1.4 g (3.31 mmol) of 7-bromo-6,6′-difluoro-3′-propyl-3,4,3′,4′-tetrahydro-2H,2′H-[3,7′]bichromenyl are dissolved in 20 ml of THF, and 3 ml (4.8 mmol) of a 15 percent solution of n-butyl-lithium in hexane are added at −50° C. The batch is left to stir for 2 h at −70° C., and a solution of 0.9 g (5.00 mmol) of p-toluenesulfonyl cyanide in 10 ml of THF is subsequently added at such a rate that the temperature does not exceed −65° C. After 30 min, the batch is allowed to thaw, diluted with ether and washed with dil. hydrochloric acid. The org. phase is dried over sodium sulfate and evaporated, and the crude product is chromatographed on silica gel with heptane/toluene (2:3), giving 6,6′-difluoro-3′-propyl-3,4,3′,4′-tetrahydro-2H,2′H-[3,7]bichromenyl-7-carbonitrile as colourless crystals of m.p. 122° C.

reactant | 7-bromo-6,6′-difluoro-3′-propyl-3,4,3′,4′-tetrahydro-2H,2′H-[3,7′]bichromenyl | 3.31 mmol, 1.4 g | BrC1=C(C=C2CC(COC2=C1)C1=C(C=C2CC(COC2=C1)CCC)F)F | C21H21BrF2O2
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | p-toluenesulfonyl cyanide | 5.00 mmol, 0.9 g | C1(=CC=C(C=C1)S(=O)(=O)C#N)C | C8H7NO2S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 6,6′-difluoro-3′-propyl-3,4,3′,4′-tetrahydro-2H,2′H-[3,7]bichromenyl-7-carbonitrile | FC=1C=C2CC(COC2=CC1C#N)C1=C(C=C2CC(COC2=C1)CCC)F | C22H21F2NO2
